US07723382B2
Synthesis of potassium (E)-3-(4-hydroxy-3-methoxyphenyl)-2-propenoate
Potassium hydroxide (580 mg, 10.3 mmol) was dissolved in methanol (10 ml) and put in a three-necked flask. Stirring was set on. Subsequently, (E)-3-(4-Hydroxy-3-methoxyphenyl)-2-propenoic acid (2.00 g, 10.3 mmol) in methanol (20 mL) was added to this solution through a funnel. After the addition was ended, the solution was allowed to react at room temperature for 3 h. Methanol was then evaporated off and then yellow solid residue was washed with Et2O and dried under reduced pressure. The product was obtained as a yellowish solid (2.40 g, quantitative yield).

reactant | Potassium hydroxide | 10.3 mmol, 580 mg | [OH-].[K+]
reactant | (E)-3-(4-Hydroxy-3-methoxyphenyl)-2-propenoic acid | 10.3 mmol, 2.00 g | OC1=C(C=C(C=C1)/C=C/C(=O)O)OC | C10H10O4
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
product | potassium (E)-3-(4-hydroxy-3-methoxyphenyl)-2-propenoate | 2.40 g, quantitative yield | OC1=C(C=C(C=C1)/C=C/C(=O)[O-])OC.[K+] | InChI=1S/C10H10O4.K/c1-14-9-6-7(2-4-8(9)11)3-5-10(12)13;/h2-6,11H,1H3,(H,12,13);/q;+1/p-1/b5-3+;
